### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Measure/Dirac): Dirac measure applied to a set is either 0 or 1

### PR DESCRIPTION
**Pull request by bwehlin**
The Dirac measure at a point `a`, applied to a set `s`, is either 0 or 1. This feature provides two if and only ifs that can be used to turn statements in terms of `\ne` into statements in terms of `=`, as well as a "0 or 1 theorem".

(The reason for adding these is to avoid having to simplify in terms of `Set.indicator` over and over while working with Dirac)

### CODE REVIEW

**Comment by bwehlin** [comment]
After some testing, it's a little unclear to me if the `@[simp]`s actually do anything. Would be happy to get some feedback on whether to keep them or not.

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 1]
```diff
@@ -40,6 +40,21 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
 theorem dirac_apply' (a : α) (hs : MeasurableSet s) : dirac a s = s.indicator 1 a :=
   toMeasure_apply _ _ hs
 
+theorem dirac_apply'_eq_zero_or_one (a : α) (hs : MeasurableSet s) :
+    dirac a s = 0 ∨ dirac a s = 1 := by
+  simp[Measure.dirac_apply' a hs, Set.indicator]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:45]: There should always be a space between `simp` and `[`
```suggestion
  simp [Measure.dirac_apply' a hs, Set.indicator]
```

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 2]
```diff
@@ -40,6 +40,21 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
...
+  tauto
+
+@[simp]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:48]: If you don't find them useful, might as well remove them.

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 2 above)
Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean]: Done! (Also added space after `simp` in the theorems not covered by the code suggestion above)

**Comment by bwehlin** [comment]
> This is true for any set, not only measurable ones. You should be able to prove it using [MeasureTheory.toMeasurable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/MeasureSpaceDef.html#MeasureTheory.toMeasurable).

Thank you for this suggestion. I have reworked the implementation to work for any `Set`.

**Comment by bwehlin** [comment]
I added the `@[simp]`s again. Here's a couple of `example`s that need them:
```
example : dirac a s = 1 := by
  have : dirac a s ≠ 0 := sorry
  simpa

example : dirac a s = 0 := by
  have : dirac a s ≠ 1 := sorry
  simpa
```

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 3]
```diff
@@ -40,6 +40,29 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
 theorem dirac_apply' (a : α) (hs : MeasurableSet s) : dirac a s = s.indicator 1 a :=
   toMeasure_apply _ _ hs
 
+theorem dirac_apply'_eq_zero_or_one {a : α} {s : Set α} :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:43]: `a` and `s` are already introduced in the file so you don't need to specify them. Also, we don't put primes in lemma names, only at the end when two lemmas have the same name, which is not the case here. The same remarks apply to the lemmas below.
```suggestion
theorem dirac_apply_eq_zero_or_one :
```

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 4]
```diff
@@ -40,6 +40,29 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
...
+    dirac a s = 0 ∨ dirac a s = 1 := by
+  rw [← measure_toMeasurable s, Measure.dirac_apply' a (by apply measurableSet_toMeasurable),
+    Set.indicator]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:46]: The use of `by apply` here is not necessary (nor really nice) because you can just use the lemma directly. Also, you don't need the namespaces.
```suggestion
  rw [← measure_toMeasurable s, dirac_apply' a (measurableSet_toMeasurable ..), indicator]
```

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 5]
```diff
@@ -40,6 +40,29 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
...
+  simp
+  tauto
+
+@[simp]
+theorem dirac_apply'_ne_zero_iff_eq_one {a : α} {s : Set α} :
+    dirac a s ≠ 0 ↔ dirac a s = 1 := by
+  constructor
+  · apply (dirac_apply'_eq_zero_or_one).resolve_left
+  · exact ne_zero_of_eq_one
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:55]: As the proofs here are one liners, you don't really need to get into tactic mode using `by`. Here are two possible other ways. As [Iff](https://leanprover-community.github.io/mathlib4_docs/Init/Core.html#Iff) is a structure with two field (`mp` is the direct implication and `mpr` is the converse one), you can either specify them using the `where` syntax:
```suggestion
    dirac a s ≠ 0 ↔ dirac a s = 1 where
  mp := dirac_apply'_eq_zero_or_one.resolve_left
  mpr := ne_zero_of_eq_one
```
Or using the constructor brackets `⟨⟩`.
```suggestion
    dirac a s ≠ 0 ↔ dirac a s = 1 :=
  ⟨dirac_apply'_eq_zero_or_one.resolve_left, ne_zero_of_eq_one⟩
```
I tend to prefer the former, but it's up to you.

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 6]
```diff
@@ -40,6 +40,29 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
...
+
+@[simp]
+theorem dirac_apply'_ne_one_iff_eq_zero {a : α} {s : Set α} :
+    dirac a s ≠ 1 ↔ dirac a s = 0 := by
+  constructor
+  · apply (dirac_apply'_eq_zero_or_one).resolve_right
+  · intro h
+    rw [h]
+    exact Ne.symm one_ne_zero
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:64]: Similar suggestion to shorten the proofs. This one is a bit less straightforward for the converse implication.
```suggestion
    dirac a s ≠ 1 ↔ dirac a s = 0 where
  mp := dirac_apply'_eq_zero_or_one.resolve_right
  mpr h := h ▸ zero_ne_one
```
What is happening here is that by writing `mpr h` I introduce `h` directly. Then I want to use `zero_ne_one`, but to do that I need to rewrite using `h`. This is what is done by `▸`: what it does is trying to rewrite using `h` inside `zero_ne_one` to match the goal. It is mentioned in the documentation of [Eq](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Eq) if you want a bit more details.

**Review by EtienneC30 — COMMENTED** [review]
Thank you! I put suggestions to make the code more idiomatic.

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 3 above)
Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:43]: Ah, I see, that's why there was a `'` in some of the other `theorem`s. I was trying to fit the style but it seems I overdid it :)

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 4 above)
Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:46]: Great, I didn't feel too happy adding the `apply` in the first place so it's good that it can be omitted!

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 5 above)
Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:55]: I agree, the former is better.

File: Mathlib/MeasureTheory/Measure/Dirac.lean (hunk 6 above)
Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean:64]: Yes, this is nice. I was thinking there was probably a way to avoid the explicit introduction of `h` that I wasn't aware of!

**Comment by bwehlin** [comment]
> Thank you! I put suggestions to make the code more idiomatic.

Perfect, I'm still a bit new to Lean and I don't know all the patterns yet so I really appreciate the feedback!

File: Mathlib/MeasureTheory/Measure/Dirac.lean [hunk 7]
```diff
@@ -40,6 +40,24 @@ theorem le_dirac_apply {a} : s.indicator 1 a ≤ dirac a s :=
 theorem dirac_apply' (a : α) (hs : MeasurableSet s) : dirac a s = s.indicator 1 a :=
   toMeasure_apply _ _ hs
 
+theorem dirac_apply_eq_zero_or_one :
+    dirac a s = 0 ∨ dirac a s = 1 := by
+  rw [← measure_toMeasurable s, dirac_apply' a (measurableSet_toMeasurable ..), indicator]
+  simp
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Dirac.lean:46]: Indeed PR reviews are a good way to learn about conventions and some useful tricks!

One last detail: this `simp` is *non terminal*, which means that it does not close the goal. As `simp` is a tactic which evolves constantly, it sometimes break proofs, and non terminal `simp`s can be hard to debug in such cases. This is why whenever you use a non terminal `simp` you need to *squeeze* it, i.e. replacing it with an equivalent `simp only` which mentions all the `simp` lemmas which were used. To do that you simply need to write `simp?` and then apply the suggestion which appears (you can do so by clicking on it, at least in VSCode). There are more details [here](https://leanprover-community.github.io/extras/simp.html#non-terminal-simps).

Comment (bwehlin) [reply Mathlib/MeasureTheory/Measure/Dirac.lean]: Absolutely.

I have squeezed the `simp` using `simp?` in the latest commit.

**Comment by EtienneC30** [comment]
That's great! Now we just have to wait for a maintainer to merge it.

maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks a lot!
